US08383658B2
5-(3-(pyridin-2-yl)isoxazol-5-yl)nicotinonitrile
The titled compound was prepared as the bishydrochloride salt according to Method CC using 5-iodo-3-(pyridin-2-yl)isoxazole (136 mg, 0.5 mmol) and 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)nicotinonitrile (Frontier, 173 mg, 0.750 mmol). 1H NMR (300 MHz, DMSO-d6) δ 7.60 (ddd, J=7.3, 4.8, 1.4 Hz, 1H), 7.93 (s, 1H), 8.04 (td, J=7.6, 1.8 Hz, 1H), 8.11 (dt, J=7.9, 1.2 Hz, 1H), 8.78 (ddd, J=2.9, 1.8 Hz, 1H), 8.96 (t, J=2.2 Hz, 1H), 9.16 (d, J=1.6 Hz, 1H), 9.47 (d, J=2.0 Hz, 1H) ppm; MS (DCI/NH3) m/z 249 (M+H)+.

reactant | 5-iodo-3-(pyridin-2-yl)isoxazole | 0.5 mmol, 136 mg | IC1=CC(=NO1)C1=NC=CC=C1 | C8H5IN2O
reactant | 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)nicotinonitrile | 0.750 mmol, 173 mg | CC1(OB(OC1(C)C)C=1C=NC=C(C#N)C1)C | C12H15BN2O2
reactant | NH3 | N | H3N
product | 5-(3-(pyridin-2-yl)isoxazol-5-yl)nicotinonitrile | N1=C(C=CC=C1)C1=NOC(=C1)C=1C=NC=C(C#N)C1 | C14H8N4O
